US04493726
21.16 g of sodium are dissolved in anhydrous isopropanol and to this solution are added 95.64 g of 4,6-dichloro-2-p-tolylpyrimidine at 60°-65° C. over 15 minutes. The mixture is then heated to the boil and refluxed for a further 4 hours to bring the reaction to completion. Excess isopropanol is then distilled off and the residual oil is taken up in chloroform. The chloroform layer is washed with water, dried over sodium sulfate, and filtered. The solvent is then distilled off, affording 112 g of 2-p-tolyl-4,6-bis-isopropoxypyrimidine in the form of a yellowish oil which is purified by high vacuum distillation. The boiling point is 123° C./5.332 Pascal.

reactant | sodium | 21.16 g | [Na] | Na
reactant | 4,6-dichloro-2-p-tolylpyrimidine | 95.64 g | ClC1=NC(=NC(=C1)Cl)C1=CC=C(C=C1)C | C11H8Cl2N2
reactant | isopropanol | C(C)(C)O | C3H8O
product | 2-p-tolyl-4,6-bis-isopropoxypyrimidine | 112 g | C1(=CC=C(C=C1)C1=NC(=CC(=N1)OC(C)C)OC(C)C)C | C17H22N2O2
